US06555552B2
1-Hydroxy-1-(2-methoxy-5-(triflouromethoxy)phenyl)ethane
To 2-methoxy-5-(trifluoromethoxy)benzaldehyde (1.0 g, 4.5 mmol) in tetrahydrofuran (10 mL) at 0° C. was added a solution of methyl magnesium bromide in tetrahydrofuran (1.6 mL, 3M, 4.7 mmol). The solution was then warmed to room temperature and quenched with saturated aqueous ammonium chloride solution (50 mL). The suspension formed was extracted with ethyl acetate (2×100 mL) and the extracts were dried (MgSO4). Concentration in vacuo yielded the title compound as an oil (1.03 g, 4.4 mmol).

reactant | 2-methoxy-5-(trifluoromethoxy)benzaldehyde | 4.5 mmol, 1.0 g | COC1=C(C=O)C=C(C=C1)OC(F)(F)F | C9H7F3O3
reactant | methyl magnesium bromide | C[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.7 mmol, 3M, 1.6 mL | O1CCCC1 | C4H8O
product | 1-Hydroxy-1-(2-methoxy-5-(triflouromethoxy)phenyl)ethane | 4.4 mmol, 1.03 g | OC(C)C1=C(C=CC(=C1)OC(F)(F)F)OC | C10H11F3O3
